US03987047
11-Chloro-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester was prepared analogous to Example 98 from 3-benzyl-11-chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline and ethyl chloroformate.

reactant | 3-benzyl-11-chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | C(C1=CC=CC=C1)N1CCC2=NC=3C=CC=CC3C(=C2CC1)Cl | C20H19ClN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 11-Chloro-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | Yield: 97% | C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)Cl | C16H17ClN2O2
